* F2 shutdown transient model. Behavioral surrogates are explicit; this is
* an engineering experiment, not a manufacturer-qualified macro-model.
* Placeholders are substituted by run_cases.sh for each scenario.
.title F2 shutdown full signal path
.param VLINE=186.6761902
.param LBOOST=216u
.param IINIT=50
.param PW_ON=5.5u
.param PWM_DELAY=3u
.param CLOCAL=19.8u
.param VB_INIT=410
.param VD_INIT=410
.param DIV_INIT=2.403456820
.param T_OPEN=120u
.param T_CLOSE=500u
.param T_ARM=1u
.param ARM_HOLD=1.5u
.param T_ARM2=1u
.param ARM2=0
.param PERMIT_DROP=400u
.param PERMIT_RETURN=410u
.param RAIL_DROP=400u
.param RAIL_RETURN=410u
.param GATE_TAU=120n
.param EN_TAU=39n
.param TSTOP=220u
.param TSTEP=2n

* HOT supply and healthy boost plant. F2 opens between VD and VB.
Vline line 0 DC {VLINE}
Lboost line sw {LBOOST} IC={IINIT}
Dboost sw vd DBOOST
.model DBOOST D(IS=1e-12 N=1.06 RS=25m CJO=80p TT=20n)
Clocal vd 0 {CLOCAL} IC={VD_INIT}
Rlocal vd 0 450k
Cbank vb 0 2240u IC={VB_INIT}
Rbank vb 0 10meg
VfuseCtl f2ctl 0 PWL(0 5 {T_OPEN-1n} 5 {T_OPEN} 0 {T_CLOSE} 0 {T_CLOSE+1n} 5)
Sfuse vd vb f2ctl 0 SWF2
.model SWF2 SW(Ron=15m Roff=1e12 Vt=2.5 Vh=.1)

* PWM/current switch. Gate load is an explicit STW-like Qg surrogate:
* 120 nC typical at 10 V -> 12 nF; doubled-Q sensitivity changes GATE_TAU.
Vpwm pwm 0 PULSE(0 5 {PWM_DELAY} 20n 20n {PW_ON} 10u)
Varm arm 0 PWL(0 0 {T_ARM-20n} 0 {T_ARM} 5 {ARM_HOLD} 5 {ARM_HOLD+1n} 0)
Varm2 arm2 0 PWL(0 0 {T_ARM2-20n} 0 {T_ARM2} 5 {T_ARM2+500n} 0)
Vpermit permit 0 PWL(0 5 {PERMIT_DROP-1n} 5 {PERMIT_DROP} 0 {PERMIT_RETURN-1n} 0 {PERMIT_RETURN} 5)
Vrails rails_ok 0 PWL(0 5 {RAIL_DROP-1n} 5 {RAIL_DROP} 0 {RAIL_RETURN-1n} 0 {RAIL_RETURN} 5)
* Driver output is EN/Q/PWM AND; UCC27624 output is a typical 15 V push-pull
* behavioral source. The source has a2.2k EN pulldown; ideal EN drive omits unpowered behavior.
Ben en_req 0 V=(V(q)>2.5) ? 5 : 0
Ren en_req en 1
Cen en 0 {EN_TAU}
Bdriver drv 0 V=((V(en)>2.5) && (V(pwm)>2.5)) ? 15 : 0
Rdriver drv gate_cmd 1
Rgate gate_cmd gate 10
Cgate gate 0 {GATE_TAU/10}
Rgs gate 0 10k
Ssw sw sw_mid gate 0 SWMOS
Rsw_sense sw_mid sw_sense 1m
Vsw_sense sw_sense 0 0
.model SWMOS SW(Ron=10m Roff=1e9 Vt=4 Vh=.25)

* Actual 987 k / 200 R / 5.62 k tapped dividers and 100 pF high-tap filters.
Rdt vd dh 987k
Rds dh dl 200
Rdb dl 0 5.62k
Cdf dh 0 100p IC={DIV_INIT}
Rbt vb bh 987k
Rbs bh bl 200
Rbb bl 0 5.62k
Cbf bh 0 100p IC={VB_INIT*5820/992820}
Vref ref 0 2.5

* TLV3202 channels are represented by a 55 ns 50%-crossing RC response
* (tau=79.3 ns; 5 V datasheet maximum at specified overdrive/load condition; not a max
* slow-ramp guarantee).
Bovd ovd 0 V=(V(dh)>V(ref)) ? 0 : 5
Rovd ovd ovd_f 1
Covd ovd_f 0 79.3n
Bovb ovb 0 V=(V(bh)>V(ref)) ? 0 : 5
Rovb ovb ovb_f 1
Covb ovb_f 0 79.3n
* DL > BH is forward mismatch; BL > DH is reverse mismatch.
Bfwd fwd 0 V=(V(dl)>V(bh)) ? 0 : 5
Rfwd fwd fwd_f 1
Cfwd fwd_f 0 79.3n
Brev rev 0 V=(V(bl)>V(dh)) ? 0 : 5
Rrev rev rev_f 1
Crev rev_f 0 79.3n
Bfault fault_agg 0 V=((V(ovd_f)>2.5) && (V(ovb_f)>2.5) && (V(fwd_f)>2.5) && (V(rev_f)>2.5)) ? 5 : 0
Rfault fault_agg fault 1
Cfault fault 0 5p

* SN74HCS21 health AND + SN74HCS74 retained fault latch surrogate. The latch
* clears asynchronously on fault/rails/permit; q does not set until a fresh
* ARM pulse while the health AND is true. Q stays low after faults until a new valid edge.
Bhealth_stage1_raw health_stage1_raw 0 V=(V(fault)>2.5) ? 5 : 0
Rhealth1 health_stage1_raw health_gate1 1
Chealth1 health_gate1 0 31.74n
Bhealth_stage2_raw health_stage2_raw 0 V=((V(health_gate1)>2.5) && (V(rails_ok)>2.5) && (V(permit)>2.5) && (V(logic5)>2.5)) ? 5 : 0
Rhealth2 health_stage2_raw health_gate2 1
Chealth2 health_gate2 0 31.74n
Bhealth health 0 V=(V(health_gate2)>2.5) ? 5 : 0
* ARM is the raw clock port.  A held high ARM is one edge; the d_dff below
* does not turn health recovery into a new clock.
Barming arming 0 V=((V(arm)>2.5) || (V(arm2)>2.5 && {ARM2}>0.5)) ? 5 : 0
* SN74HCS74 retained latch: XSPICE d_dff gives a real clock edge and
* asynchronous clear.  The adc/dac bridges are explicit 5 V logic interfaces;
* clk_delay/reset_delay=19 ns is the HCS74 datasheet fixture maximum used as a surrogate.
Breset reset_l 0 V=(V(health)<2.5) ? 5 : 0
Ainput [health arming reset_l] [data_d clk_d reset_d] adc
.model adc adc_bridge(in_low=2.5 in_high=2.5)
Alatch data_d clk_d NULL reset_d q_d qn_d latch
.model latch d_dff(clk_delay=19n reset_delay=19n set_delay=19n rise_delay=1p fall_delay=1p ic=0)
Aoutput [q_d qn_d] [q qn] dac
.model dac dac_bridge(out_low=0 out_high=5 out_undef=2.5)
Rq q 0 10k
Rqn qn 0 10k

* Keep named HOT interface nets in the saved trace for source/graph binding.
* aux and logic5 are supplied externally here; they are not power-tree models.
Vlogic5 logic5 0 5
Vaux aux 0 15
Rgnd gnd 0 1m

.tran {TSTEP} {TSTOP} uic
.save time v(vd) v(vb) v(dh) v(dl) v(bh) v(bl) v(fault) v(health) v(q) v(en) v(drv) v(gate) v(pwm) v(arming) v(permit) v(rails_ok) v(f2ctl) i(lboost) v(sw_mid) v(sw_sense)
.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
run
wrdata /private/tmp/temper-pkgs-1-4/zapote/power-entry/passive-reva/protection/f2-shutdown-03/simulation/traces/f2_open_50_adverse.tsv time v(vd) v(vb) v(dh) v(dl) v(bh) v(bl) v(fault) v(health) v(q) v(en) v(drv) v(gate) v(pwm) v(arming) v(permit) v(rails_ok) v(f2ctl) i(lboost) v(sw_mid) v(sw_sense)
meas tran peak_vd MAX v(vd)
meas tran peak_i MAX i(lboost)
write /private/tmp/temper-pkgs-1-4/zapote/power-entry/passive-reva/protection/f2-shutdown-03/simulation/raw/f2_open_50_adverse.raw all
quit
.endc
.end
